US08466282B2
Tert-butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
6-Fluoro-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole (1.02 g) and tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (1.11 g) were dissolved in acetonitrile (50 ml) and water (25 ml), potassium carbonate (4.15 g) was added, and the mixture was stirred at 60° C. for 17 hr. The reaction mixture was cooled to room temperature, and the mixture was extracted with ethyl acetate. The extract was washed successively with 10% aqueous citric acid solution, aqueous sodium bicarbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (595 mg).

reactant | 6-Fluoro-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole | 1.02 g | FC=1C=CC2=C(N(C(=N2)C(Cl)(Cl)Cl)CCCCOC)C1 | C13H14Cl3FN2O
reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 1.11 g | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 25 ml | O | H2O
product | Tert-butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 595 mg | FC=1C=CC2=C(N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC)C1 | C32H48FN5O6
